US08183380B2
Morpholine-4-carboxylic acid [2-((R)-indan-1-ylamino)-quinolin-6-yl]-amide
The title compound was prepared in accordance with the general method 4 described in example 16 from bis(trichloromethyl) carbonate, morpholine and (R)—N2-indan-1-yl-quinoline-2,6-diamine; MS: m/e=389.5 (M+H+).

reactant | bis(trichloromethyl) carbonate | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | (R)—N2-indan-1-yl-quinoline-2,6-diamine | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
product | Morpholine-4-carboxylic acid [2-((R)-indan-1-ylamino)-quinolin-6-yl]-amide | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)NC(=O)N1CCOCC1 | C23H24N4O2
